US07396842B2
N-[3-(Dimethylamino)propyl]-N′-(2-pyridyl)thiourea
A mixture of ethyl 2-pyridyldithiocarbamate (600 mg), 3-(dimethylamino)propylamine (0.38 ml) and ethanol (6 ml) was heated with reflux under nitrogen atmosphere. One and half hour thereafter, the reaction mixture was concentrated under reduced pressure to give the title compound (786 mg) as crude oil.

reactant | ethyl 2-pyridyldithiocarbamate | 600 mg | N1=C(C=CC=C1)NC(SCC)=S | C8H10N2S2
reactant | 3-(dimethylamino)propylamine | 0.38 ml | CN(CCCN)C | C5H14N2
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | N-[3-(Dimethylamino)propyl]-N′-(2-pyridyl)thiourea | 786 mg | CN(CCCNC(=S)NC1=NC=CC=C1)C | C11H18N4S
